US05281747
A solution of 29.8 g of isobutyl P-(3-cyanoprop-2-yl)-P-methyl-phosphinate in 200 ml of ethanol is added to 310.0 g of an 8% solution of ammonia in ethanol. To this are added 20 ml of Raney nickel slurry, and the resulting mixture is hydrogenated at 1 bar until hydrogen uptake ceases. The mixture is then filtered and the filtrate is concentrated under reduced pressure. The crude product is distilled under reduced pressure to give isobutyl P-(4-aminobut-2-yl)-P-methyl-phosphinate, b.p. 100°/0.1 mbar, 31P-NMR spectrum: δ=+58.9 and +58.4 ppm (CDCl3).

reactant | isobutyl P-(3-cyanoprop-2-yl)-P-methyl-phosphinate | 29.8 g | C(#N)CC(C)P(OCC(C)C)(=O)C | C9H18NO2P
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney nickel | 20 ml | [Ni] | Ni
product | isobutyl P-(4-aminobut-2-yl)-P-methyl-phosphinate | NCCC(C)P(OCC(C)C)(=O)C | C9H22NO2P
